US06203785B1
47 g pyrrolidine, 149.5 g 1-bromododecane and 83 g potassium carbonate were added to 560 mL acetone. The reaction mixture was heated at 55° C. for 24 hr, then filtered. Solvent was removed from the filtrate, yielding 92 g N-dodecylpyrrolidine. 80 g N-dodecylpyrrolidine and 52.6 g 1-bromo-3-chloropropane were dissolved in 133 mL methanol and the reaction mixture was heated at 65° C. for 18 hr. After cooling to room temperature, methanol was removed under reduced pressure. The residue was poured into 2 L diethylether with stirring and the mixture was allowed to stand for another 6 hr. The white precipitate thus formed was filtered and was dried at 40° C. under a vacuum for 24 hr yielding 85 g (3-chloropropyl)dodecylpyrrolidinium bromide as a white solid, Alkylation of crosslinked poly(diallylmethylamine) with (3-chloropropyl)dodecylpyrrolidinium bromide

reactant | pyrrolidine | 47 g | N1CCCC1 | C4H9N
reactant | 1-bromododecane | 149.5 g | BrCCCCCCCCCCCC | C12H25Br
reactant | potassium carbonate | 83 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 560 mL | CC(=O)C | C3H6O
product | N-dodecylpyrrolidine | 92 g | C(CCCCCCCCCCC)N1CCCC1 | C16H33N
